US07902219B2
To a solution of 454 mg of 3-bromo-1-phenylpropane-1,2-dione in 1 mL of methanol is added dropwise at 4° C. a solution of 179 mg of 2-amino-5-methylpyridine in 4 mL of methanol. The reaction mixture is stirred for 15 hours at 4° C. and then refluxed for 2 hours. After evaporating off the solvent under reduced pressure, the residue is taken up in dichloromethane and basified with normal sodium hydroxide solution. The basic aqueous phase is extracted with dichloromethane and the combined organic phases are washed with water and then with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. The residue is chromatographed on a cartridge of 20 g of silica, eluting with an 85/15 and then 65/35 mixture of cyclohexane and ethyl acetate. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure to give 120 mg of (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone in the form of a beige-colored solid.

reactant | 3-bromo-1-phenylpropane-1,2-dione | 454 mg | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
reactant | 2-amino-5-methylpyridine | 179 mg | NC1=NC=C(C=C1)C | C6H8N2
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 4 mL | CO | CH4O
product | (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone | 120 mg | CC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C15H12N2O
